US05151113
Preparation of Methyl 2-(3-Phenoxyphenoxy)-2-(4,6-dimethyl-2-pyrimidinyloxy)acetate.
3-Phenoxyphenol (1.0 g, 5.4 mmol) was placed in a flask with potassium carbonate (0.90 g, 6.5 mmol) and 20 mL of acetonitrile and to this was added dropwise with stirring at ambient temperature, a solution of ethyl 2-chloro-2-(4,6-dimethyl-2-pyrimidinyloxy)acetate (1.40 g, 5.7 mmol) in 5 mL of acetonitrile. The mixture was allowed to stir overnight and was then added to water and the resulting mixture was extracted 3 times with ether. The ethereal solution was extracted 2 times with 1N aqueous sodium hydroxide, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain about 1 g of the title compound as a crude yellow oil. This oil, which solidified on standing, was chromatographed on silica eluting with an 85:15 mixture of hexane and ethyl acetate to obtain 0.60 g (28 percent of theory) of the title compound as a white solid melting at 111°-112° C.

reactant | 3-Phenoxyphenol | 5.4 mmol, 1.0 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
reactant | potassium carbonate | 6.5 mmol, 0.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-chloro-2-(4,6-dimethyl-2-pyrimidinyloxy)acetate | 5.7 mmol, 1.40 g | ClC(C(=O)OCC)OC1=NC(=CC(=N1)C)C | C10H13ClN2O3
reactant | water | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Methyl 2-(3-Phenoxyphenoxy)-2-(4,6-dimethyl-2-pyrimidinyloxy)acetate | about 1 g | O(C1=CC=CC=C1)C=1C=C(OC(C(=O)OC)OC2=NC(=CC(=N2)C)C)C=CC1 | C21H20N2O5
